* source RECTIFIER
M_M4         N04862 N06657 0 0 IRF540
R_R7         0 N02971  10k  
M_M2         N041022 N03201 0 0 IRF540
C_C5         N04870 N03059  20000u  
D_ZD2         0 N03201 D1N4744A 
R_R14         N06741 N04862  10k  
C_C3         N04862 N06345  47u  
X_U3         N06565 N06353 N06345 N04862 N06269 LM139 
V_VS2         N04870 N04862  
+SIN 0 13.4 50 0 0 0
V_VS1         N05803 N04870  
+SIN 0 13.4 50 0 0 0
X_U1         N05987 N05807 N05811 N05803 N05819 LM139 
R_R13         0 N06953  4.7k  
R_R12         N06269 N06345  10k  
R_R8         N03201 N03059  10k  
X_U2         N02919 N02971 N03059 0 N03201 LM139 
R_R1         N05803 N05987  4.7k  
D_ZD3         N04862 N06269 D1N4744A 
R_R2         N05807 N03059  10k  
M_M3         N03059 N06269 N04862 N04862 IRF540
R_R10         N06353 N03059  10k  
D_D2         N05803 N06345 D1N4148 
R_R4         N05819 N05811  10k  
I_I2         N03059 0 DC 4Adc  
R_R77         N041022 N05803  0.008  
R_R15         0 N06741  10k  
D_ZD1         N05803 N05819 D1N4744A 
C_C2         0 N03059  47u  
D_D1         N04862 N05811 D1N4148 
D_ZD4         0 N06657 D1N4744A 
I_I1         N04870 0 DC 0.1Adc  
C_C1         N05803 N05811  47u  
R_R9         N04862 N06565  4.7k  
R_R6         N02971 N05803  10k  
C_C4         0 N03059  47u  
X_U4         N06953 N06741 N03059 0 N06657 LM139 
R_R3         N05803 N05807  10k  
R_R5         0 N02919  4.7k  
R_R16         N06657 N03059  10k  
R_R11         N04862 N06353  10k  
M_M1         N03059 N05819 N05803 N05803 IRF540
C_C6         0 N04870  20000u  
